US05998436
Synthesis of 1-(6-amino-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 1.2 ml of the mixed solution of 4N hydrochloric acid and acetate (1:1) was added 235 mg of ethyl 1-[3-fluoro-6-(1,1,3,3-tetramethylbutylamino)pyridin-2-yl]-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate and the mixture was heated under reflux for 6 hours with stirring and allowed to cool. The precipitate was collected by filtration and washed with ethanol to obtain 145 mg of the title compound as a gray powder.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | acetate | C(C)(=O)[O-]
reactant | ethyl 1-[3-fluoro-6-(1,1,3,3-tetramethylbutylamino)pyridin-2-yl]-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 235 mg | FC=1C(=NC(=CC1)NC(CC(C)(C)C)(C)C)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC | C25H27ClF3N3O3
product | 1-(6-amino-3-fluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 145 mg | NC1=CC=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F | C15H7ClF3N3O3
